US06200991B1
1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazol-2-one
A mixture of 1.94 g (0.01 mol) of 2-aminocyclohexanone hydrobromide, 1.19 g (0.01 mol) of phenyl isocyanate and 4 ml of pyridine is stirred at 125° C. for 4 hours. Water is added, the mixture is stirred until crystallization is obtained, drained, washed with water and dried. The compound is purified by flash chromatography on silica, eluting with a 95:5 CH2Cl2/CH3OH mixture. 0.7 g of product is recovered. Yield=33% (m.p.=224° C.).

reactant | 2-aminocyclohexanone hydrobromide | 0.01 mol, 1.94 g | Br.NC1C(CCCC1)=O
reactant | phenyl isocyanate | 0.01 mol, 1.19 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | 1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazol-2-one | Yield=33% | C1(=CC=CC=C1)N1C(NC2=C1CCCC2)=O | C13H14N2O
